US09340538B2
Step E: 4-methylpiperazine-2-carboxylic acid
Ethyl 4-methylpiperazine-2-carboxylate (1.03 g, 6 mmol) was reacted with NaOH (0.48 g, 12 mmol) according to the procedure as described in Example 21, Step A to give the title compound as colorless oil (0.86 g, 100%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-methylpiperazine-2-carboxylate | 6 mmol, 1.03 g | CN1CC(NCC1)C(=O)OCC | C8H16N2O2
reactant | NaOH | 12 mmol, 0.48 g | [OH-].[Na+]
product | 4-methylpiperazine-2-carboxylic acid | 0.86 g, 100% | CN1CC(NCC1)C(=O)O | C6H12N2O2
